US05925789
Preparation of N-((4'-Methoxy)benzyl)-4-chloro-2-trifluoroacetylaniline. Compound (II-i)
To a slurry of 4-Chloro-2-trifluoroacetylaniline, hydrochloride hydrate (40.0 kg, 144 mol) in toluene (140 kg) and water (50 L) was added 30% NaOH (18 kg) to pH 7.0. After removing the aqueous phase, 4-methoxybenzyl alcohol (20 kg, 144 mol) and TsOH (1.0 kg, 5.3 mol) were added. The solution was heated to reflux and the water/toluene azeotrope (30 L) distilled. The solution was cooled to room temperature and washed with saturated brine (80 kg).

reactant | 4-Chloro-2-trifluoroacetylaniline, hydrochloride hydrate | 144 mol, 40.0 kg | O.Cl.ClC1=CC(=C(N)C=C1)C(C(F)(F)F)=O
reactant | NaOH | 18 kg | [OH-].[Na+]
reactant | 4-methoxybenzyl alcohol | 144 mol, 20 kg | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | TsOH | 5.3 mol, 1.0 kg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 140 kg | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 L | O | H2O
solvent | water toluene | O.C1(=CC=CC=C1)C
product | N-((4'-Methoxy)benzyl)-4-chloro-2-trifluoroacetylaniline | COC1=CC=C(CNC2=C(C=C(C=C2)Cl)C(C(F)(F)F)=O)C=C1 | C16H13ClF3NO2
